US07060844B2
A mixture of 4-(2-chloro-ethyl)-morpholine hydrochloride (5 g, 26.9 mmole), and sodium iodide (20 g, 134.4 mmole) in acetone (50 ml) was refluxed for 16 hours. After cooled to room temperature, the reaction was partitioned between CHCl3 and brine. The aqueous layer was extracted with CHCl3 (2×25 ml). The combined organic layers were washed with brine, and dried over anhydrous Mg2SO4. Removal of the solvent gave 4-(2-iodo-ethyl)-morpholine as a pale yellowish oil (3.84 g, 59%).

reactant | 4-(2-chloro-ethyl)-morpholine hydrochloride | 26.9 mmole, 5 g | Cl.ClCCN1CCOCC1
reactant | sodium iodide | 134.4 mmole, 20 g | [I-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(2-iodo-ethyl)-morpholine | 3.84 g, 59% | ICCN1CCOCC1 | C6H12INO
